US04994486
Step 2: [1R,3S] 1-Aminomethyl-5-hydroxy-3-phenyl-1,2,3,4-tetrahydronaphthalene formic acid salt
[1R,3S] 1-Aminomethyl-5-methoxy-3-phenyl-1,2,3,4-tetrahydronaphthalene hydrochloride (0.16 g, 0.53 mmol), from Step 1, was suspended in 5 mL of methylene chloride and the suspension was cooled to -78° C. in a dry ice/acetone bath. Boron tribromide (19 mL of a 1 M solution in methylene chloride, 19 mmol) was added and the reaction mixture was allowed to warm to ambient temperature, kept at ambient temperature for 1.5 h then cooled to -78° C. Methanol (3 mL) was added to the reaction mixture and it was again allowed to warm to ambient temperature then concentrated in vacuo. The residue was dissolved in methanol and reconcentrated. The residue was redissolved in methanol and the methanol solution was chromatographed on a silica gel column eluted with ethyl acetate:formic acid:water (18:1:1, v/v/v) to give 0.11 g (70% yield) of the title compound as a white powder, m.p. 110°-112° C.; 1H NMR (d6 -DMSO) δ1.7 (q, 1H), 2.1-2.25 (m, 1H), 2.35-2.5 (m, 1H), 2.75-2.90 (m, 2H), 2.9-3.05 (m, 1H), 3.05-3.2 (m, 1H), 3.25-3.35 (m, 1H), 6.07 (d, 1H), 6.81 (d, 1H), 7.0 (t, 1H), 7.2-7.3 (m, 1H), 7.3-7.4 (m, 4H), 8.38 (s, 1H).

reactant | [1R,3S] 1-Aminomethyl-5-methoxy-3-phenyl-1,2,3,4-tetrahydronaphthalene hydrochloride | 0.53 mmol, 0.16 g | Cl.NC[C@@H]1C[C@@H](CC2=C(C=CC=C12)OC)C1=CC=CC=C1
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | Methanol | 3 mL | CO | CH4O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | [1R,3S] 1-Aminomethyl-5-hydroxy-3-phenyl-1,2,3,4-tetrahydronaphthalene formic acid salt | 0.11 g, 70% yield | C(=O)O.NC[C@@H]1C[C@@H](CC2=C(C=CC=C12)O)C1=CC=CC=C1 | InChI=1S/C17H19NO.CH2O2/c18-11-14-9-13(12-5-2-1-3-6-12)10-16-15(14)7-4-8-17(16)19;2-1-3/h1-8,13-14,19H,9-11,18H2;1H,(H,2,3)/t13-,14-;/m0./s1
